US06121307
[3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(indan-4-yloxy)-ethyl]-amine (13a)
A solution of 2-(indan-4-yloxy)-ethylchloride (0.58 g, 2.9 mmol), 3-(5-fluoro-1H-indol-3-yl)-propylamine (1.4 g, 7.4 mmol) and triethylamine (1 ml, 7.4 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 12 hours at 90° C. The mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×100 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (7% methanol-methylene chloride) afforded 0.31 g (30%) of product as a brown oil.

reactant | 2-(indan-4-yloxy)-ethylchloride | 2.9 mmol, 0.58 g | C1CCC2=C(C=CC=C12)OCCCl | C11H13ClO
reactant | 3-(5-fluoro-1H-indol-3-yl)-propylamine | 7.4 mmol, 1.4 g | FC=1C=C2C(=CNC2=CC1)CCCN | C11H13FN2
reactant | triethylamine | 7.4 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(indan-4-yloxy)-ethyl]-amine | 0.31 g, 30% | FC=1C=C2C(=CNC2=CC1)CCCNCCOC1=C2CCCC2=CC=C1 | C22H25FN2O
